US06225310B1
a) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(cyclohexyl)thiourea
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and cyclohexyl isothiocyanate by a procedure analogous to the procedure described in example 3-a (yield 78%); 1H-NMR (DMSO-d6): δ1.1-1.9 (m, 10H), 4.0 (m, 1H), 6.45 (br s, 2H), 6.66 (s, 1H), 8.05 (br d, 1H), 11.2 (br s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | cyclohexyl isothiocyanate | C1(CCCCC1)N=C=S | C7H11NS
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(cyclohexyl)thiourea | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NC1CCCCC1 | C11H16ClN3O2S3
